US06531491B1
Tin(II) chloride (12.0 g, 63.3 mmol) was added to a solution of 6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole (7.18 g, 13.3 mmol) in DMF/H2O (160 mL/10 mL), and the reaction stirred at 50° C. for 2.5 h. The reaction was cooled to 0° C., and saturated sodium bicarbonate was added slowly, with mixing, until all frothing from quenching had subsided. The material was concentrated in vacuo and taken up in ether (100 mL). Insoluble material was removed by filtration and rinsed with ether (50 mL). The filtrate was washed with brine (50 mL), dried (Na2SO4), and concentrated in vacui. Purification by silica gel chromatography (25% ethyl acetate/hexane) gave 6.05 g (89%) of 6-amino-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole as a faintly yellow waxy solid. 1H NMR (300 MHz, CDCl3) δ 8.40 (d, 1H, J=9.0 Hz), 7.89-7.86 (m, 1H), 7.63-7.60 (m, 1H), 7.35-7.31 (m, 2H), 6.78 (dd, 1H, J=8.7, 1.8 Hz), 6.75 (s, 1H), 6.25 (s, 2H), 5.69 (s, 2H), 3.93 (br s, 2H), 3.65-3.55 (m, 4H), 0.93 (t, 2H, J=8.1 Hz), 0.85 (t, 2H, J=8.1 Hz), −0.04 (s, 9H), −0.15 (s, 9H). Anal. (C26H39N5O2Si2) C, H, N. Calculated: C, 61.26; H, 7.71; N, 13.74. Found: C, 61.18; H, 7.65; N, 13.82.

reactant | Tin(II) chloride | 63.3 mmol, 12.0 g | [Sn](Cl)Cl
reactant | 6-nitro-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole | 13.3 mmol, 7.18 g | [N+](=O)([O-])C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C26H37N5O4Si2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF H2O | 160 mL | CN(C)C=O.O
product | 6-amino-1-[2-(trimethyl-silanyl)-ethoxymethyl]-3-{1-[2-(trimethyl-silanyl)-ethoxymethyl]-1-H-benzoimidazol-2-yl}-1-H-indazole | 6.05 g, 89% | NC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C26H39N5O2Si2
